US08633175B2
A mixture of 4-(aminocarbonyl)-2-chlorophenyl 1,1-dimethylethyl carbonate (6.86 g, 0.025 mol) and 4N HCl in dioxane (50 mL) in dioxane (30 mL) was heated at reflux for 4 hr. The reaction mixture was cooled, and precipitated solid was collected by filtration affording 3-chloro-4-hydroxybenzamide as a white solid, used without further purification. LC/MS (method E) tR 0.88 min; m/z 172 (M+H).

reactant | 4-(aminocarbonyl)-2-chlorophenyl 1,1-dimethylethyl carbonate | 0.025 mol, 6.86 g | C(OC1=C(C=C(C=C1)C(=O)N)Cl)(OC(C)(C)C)=O | C12H14ClNO4
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 3-chloro-4-hydroxybenzamide | ClC=1C=C(C(=O)N)C=CC1O | C7H6ClNO2
